US06448242B1
Preparation of N,N-bis[[1-[(E)-3-(6,7,8-trimethoxy-2-naphthyl)-2-propenoyl]-4-piperidinyl]methyl]methylamine hydrochloride
Concentrated hydrochloric acid (0.020 ml; 0.24 mmol) was added to a solution of N,N-bis[[1-[(E)-3-(6,7,8-trimethoxy-2-naphthyl)-2-propenoyl]-4-piperidinyl]methyl]-methylamine (57 mg; 0.074 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. A process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice to obtain the title compound as a pale yellow amorphous powder.

reactant | hydrochloric acid | 0.24 mmol, 0.020 ml | Cl | ClH
reactant | N,N-bis[[1-[(E)-3-(6,7,8-trimethoxy-2-naphthyl)-2-propenoyl]-4-piperidinyl]methyl]-methylamine | 0.074 mmol, 57 mg | COC=1C=C2C=CC(=CC2=C(C1OC)OC)/C=C/C(=O)N1CCC(CC1)CN(CC1CCN(CC1)C(\C=C\C1=CC2=C(C(=C(C=C2C=C1)OC)OC)OC)=O)C | C45H55N3O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N,N-bis[[1-[(E)-3-(6,7,8-trimethoxy-2-naphthyl)-2-propenoyl]-4-piperidinyl]methyl]methylamine hydrochloride | Cl.COC=1C=C2C=CC(=CC2=C(C1OC)OC)/C=C/C(=O)N1CCC(CC1)CN(CC1CCN(CC1)C(\C=C\C1=CC2=C(C(=C(C=C2C=C1)OC)OC)OC)=O)C | InChI=1S/C45H55N3O8.ClH/c1-46(28-32-16-20-47(21-17-32)40(49)14-10-30-8-12-34-26-38(51-2)44(55-6)42(53-4)36(34)24-30)29-33-18-22-48(23-19-33)41(50)15-11-31-9-13-35-27-39(52-3)45(56-7)43(54-5)37(35)25-31;/h8-15,24-27,32-33H,16-23,28-29H2,1-7H3;1H/b14-10+,15-11+;
